US04241076
(c) 4,4-Difluoro-L-proline, hydrobromide
A mixture of 2.4 grams of N-carbobenzyloxy-4, 4-difluoro-L-proline and 12 ml. of hydrogen bromide in acetic acid (30-32%) is stirred for 30 minutes at room temperature and then 300 ml. of anhydrous ether is added. The mixture is cooled and the precipitated solid is filtered and dried under reduced pressure. The desired 4,4-difluoro-L-proline, hydrobromide melts at 163°-165° (s. 160°); [α]D26 -14° (c=1%; methanol).

reactant | N-carbobenzyloxy-4, 4-difluoro-L-proline | 2.4 grams | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CC(C1)(F)F | C13H13F2NO4
reactant | hydrogen bromide | Br | BrH
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4,4-Difluoro-L-proline, hydrobromide | Br.FC1(C[C@H](NC1)C(=O)O)F | InChI=1S/C5H7F2NO2.BrH/c6-5(7)1-3(4(9)10)8-2-5;/h3,8H,1-2H2,(H,9,10);1H/t3-;/m0./s1
